US09278983B2
To a mixture of 2-(2-propylsulfanylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (0.22 g) and chloroform (3 ml), 3-chloroperbenzoic acid (purity: not less than 65%, 0.33 g) was added under ice-cooling, and then heated to room temperature, and stirred for 1.5 hours. Into the reaction mixture, saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium thiosulfate solution were poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced, pressure. The resulting residue was subjected to silica gel column chromatography to give 0.24 g of 2-(2-ethylsulfonylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 9).

reactant | 2-(2-propylsulfanylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.22 g | C(CC)SC1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C17H16F3N3S
reactant | 3-chloroperbenzoic acid | 0.33 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-ethylsulfonylphenyl)-3-methyl-6-trifluoromethyl-3H-imidazo[4,5-b]pyridine | 0.24 g | C(C)S(=O)(=O)C1=C(C=CC=C1)C1=NC=2C(=NC=C(C2)C(F)(F)F)N1C | C16H14F3N3O2S
